US06576656B1
1-(2-Diethylaminoethyl)-3-hydroxy-3-(3-thienyl)-4-bromooxindole
To 3-bromothiophene (105.5 mg, 2.1 eq) in anhydrous THF (2 mL) under a nitrogen atmosphere and with stirring was added t-BuLi (0.38 mL, 2.1 eq, 1.7 M in pentane) at −40° C. (bath temperature). Stirring was continued for 30 minutes after which 1-(2-diethylaminoethyl)-4-bromoisatin (100.0 mg, 3.08×10−4 mol) in anhydrous THF (2 mL) was added dropwise. The resulting red colored solution was stirred at −40° C. for 8 hours. Saturated aqueous NH4Cl (1.5 mL) was added and the reaction mixture was allowed to warm to room temperature. The mixture was extracted with EtOAc and the combined extracts were dried (anhydrous Na2SO4). After filtration the solvent was removed in vacuo. Purification was carried out by column chromatography (silica gel, eluting 1% to 2% MeOH in CHCl3) to give the title compound as a light brown foam (124.5 mg, 99%).

reactant | 3-bromothiophene | 105.5 mg, 2.1 eq | BrC1=CSC=C1 | C4H3BrS
reactant | t-BuLi | 1.7 M, 0.38 mL, 2.1 eq | [Li]C(C)(C)C
reactant | 1-(2-diethylaminoethyl)-4-bromoisatin | 3.08×10−4 mol, 100.0 mg | C(C)N(CCN1C(=O)C(=O)C2=C(C=CC=C12)Br)CC | C14H17BrN2O2
reactant | NH4Cl | 1.5 mL | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(2-Diethylaminoethyl)-3-hydroxy-3-(3-thienyl)-4-bromooxindole | 124.5 mg, 99% | C(C)N(CCN1C(C(C2=C(C=CC=C12)Br)(C1=CSC=C1)O)=O)CC | C18H21BrN2O2S
